US06143772
1.2. 5-Amino-2-(3,3,3-trifluoropropyl)benzofuran
A mixture of 2.4 g (9.2 mmol) of 2-(3,3,3-trifluoropropyl)-5-nitrobenzofuran, 0.65 g (17 mmol) of sodium borohydride, 45 mg of Adogen® 464 (methyl trialkylammonium chloride) and 0.38 g of 5% palladium on carbon containing 50% of water in 95 ml of dichloromethane and 48 ml of water is stirred for 5 hours, then it is filtered on silica and the silica is rinsed with ethanol. The filtrate is then concentrated under reduced pressure and coevaporated with toluene. By chromatography of the residue on a silica column using a 0-30% mixture of ethyl acetate in cyclohexane, 2.0 g of product are obtained. Melting point: 74° C.

reactant | 2-(3,3,3-trifluoropropyl)-5-nitrobenzofuran | 9.2 mmol, 2.4 g | FC(CCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])(F)F | C11H8F3NO3
reactant | sodium borohydride | 17 mmol, 0.65 g | [BH4-].[Na+]
catalyst | palladium on carbon | 0.38 g | [Pd] | Pd
solvent | dichloromethane | 95 ml | ClCCl | CH2Cl2
solvent | water | 48 ml | O | H2O
product | 5-Amino-2-(3,3,3-trifluoropropyl)benzofuran | NC=1C=CC2=C(C=C(O2)CCC(F)(F)F)C1 | C11H10F3NO
